US07432293B2
a) 3-(Hydroxyimino-methyl)-benzoic acid methyl ester
In a 100 ml round flask, 2.31 g (14.1 mmol) of 3-formyl-benzoic acid methyl ester are dissolved in 25 ml of water and 45 ml of methanol and cooled to 0° C. After reaching this temperature, 980 mg (14.1 mmol) of hydroxylamine hydrochloride are added and the mixture stirred for 1 h under warming to room temperature. Then, the mixture is poured onto water and extracted twice with ethyl acetate. The organic layers are dried with brine and over Na2SO4 and concentrated. This yields the title compound as a white solid which is used for the next step without purification. Mass spectrum: m/z (M+H)+: 179.9

reactant | 3-formyl-benzoic acid methyl ester | 14.1 mmol, 2.31 g | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | methanol | 45 ml | CO | CH4O
reactant | hydroxylamine hydrochloride | 14.1 mmol, 980 mg | Cl.NO
solvent | water | 25 ml | O | H2O
product | 3-(Hydroxyimino-methyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=NO)=O | C9H9NO3
